US07375115B2
tert-Butyl [2-[1-(2-iodoethyl)cyclohexyl]ethoxy]diphenylsilane
To a solution of [2-[1-(tert-butyldiphenylsiloxy)ethyl]cyclohexyl]ethanol (4.0 g) in tetrahydrofuran (60 mL) and acetonitrile (20 mL) were added triphenylphosphine (3.3 mL), imidazole (993 mg) and iodine (3.46 g) at room temperature successively. After stirring the solution at room temperature for 2 hours, diethyl ether was added to the solution, and it was washed in turn with an aqueous sodium thiosulfate solution, water, and saturated aqueous sodium chloride solution. The solution was dried over anhydrous magnesium sulfate, and then, concentrated under reduced pressure. The resulting residue was dissolved in acetonitrile. The solution was extracted with hexane. The combined hexane layer was washed with acetonitrile and concentrated under reduced pressure to give the title compound (4.83 g).

reactant | [2-[1-(tert-butyldiphenylsiloxy)ethyl]cyclohexyl]ethanol | 4.0 g | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C(C)C1C(CCCC1)C(C)O | C26H38O2Si
reactant | triphenylphosphine | 3.3 mL | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 993 mg | N1C=NC=C1 | C3H4N2
reactant | iodine | 3.46 g | II | I2
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | diethyl ether | C(C)OCC | C4H10O
product | tert-Butyl [2-[1-(2-iodoethyl)cyclohexyl]ethoxy]diphenylsilane | 4.83 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OCCC1(CCCCC1)CCI | C26H37IOSi
